US06313137B1
Synthesis of methyl 5,6-diaminonicotinate
Methyl 6-amino-5-nitronicotinate (9.0 g, 46 mmol) and a small amount of Pd/C cat. were added to methanol (200 ml) and the mixture was hydrogenated at room temperature and atmospheric pressure until the uptake of hydrogen ceased. Following filtration through celite, the methanol was evaporated under reduced pressure to give the title compound, 7.0 g (92%).

reactant | Methyl 6-amino-5-nitronicotinate | 46 mmol, 9.0 g | NC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H7N3O4
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | methyl 5,6-diaminonicotinate | NC=1C(=NC=C(C(=O)OC)C1)N | C7H9N3O2
